US09447097B2
N-(2-(1-(4-Amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-yloxy)ethyl)acetamide
1-(2-(2-Aminoethoxy)-2-methylpropyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine (32 mg, 89.5 μmol) was combined with DCM (1.0 mL) to give a colorless solution. To this solution was added triethylamine (25.0 μL, 179 μmol) and acetyl chloride (7.00 μL , 98.5 μmol) and the reaction mixture was stirred 18 hours at room temperature. After concentrating the mixture in vacuo the residue was purified by flash chromatography (silica gel-NH2, 0% to 10% methanol in DCM) to give the title compound (19 mg, 53%) as white foam; LC-MS (UV peak area, ESI) 97%, 400.2348 (MH+).

reactant | 1-(2-(2-Aminoethoxy)-2-methylpropyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 89.5 μmol, 32 mg | NCCOC(CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC)(C)C | C19H27N5O2
reactant | triethylamine | 179 μmol, 25.0 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 98.5 μmol, 7.00 μL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | N-(2-(1-(4-Amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-yloxy)ethyl)acetamide | 19 mg, 53% | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(OCCNC(C)=O)C)COCC | C21H29N5O3
